US05908859
2-(4-Cyclopentyloxybenzoyl)-3-Phenyl-6-Methoxybenzo[b]thiophene
3-Phenyl-6-methoxybenzo[b]thiophene and p-cyclopentyloxybenzoyl chloride were converted to the title compound by the procedure of Example 1 to yield 6 g of crude product.

reactant | 3-Phenyl-6-methoxybenzo[b]thiophene | C1(=CC=CC=C1)C=1C2=C(SC1)C=C(C=C2)OC | C15H12OS
reactant | p-cyclopentyloxybenzoyl chloride | C1(CCCC1)OC1=CC=C(C(=O)Cl)C=C1 | C12H13ClO2
product | 2-(4-Cyclopentyloxybenzoyl)-3-Phenyl-6-Methoxybenzo[b]thiophene | C1(CCCC1)OC1=CC=C(C(=O)C2=C(C3=C(S2)C=C(C=C3)OC)C3=CC=CC=C3)C=C1 | C27H24O3S
